US04173633
13.5 g of 2-dimethylaminomethyl-6-methoxy-1-tetralone hydrochloride (C. A. 41, 6253 g) are dissolved in 200 ml of water and 4 ml of concentrated hydrochloric acid are added, followed by the concentrated aqueous solution of 6.5 g of potassium cyanide, introduced below the surface of the liquid. The mixture is refluxed for one hour, stirred at room temperature overnight and filtered, to yield the 2-cyanomethyl-6-methoxy-1-tetralone melting at 90°-93°. Similarly prepared are the following nitriles: 2-cyanomethyl-1-tetralone, b.p. 125°-30°/0.005 mm Hg; 2-cyanomethyl-6,7-dimethoxy-1-tetralone, m.p. 116°-118°; 2-cyanomethyl-7-methoxy-1-tetralone, m.p. 80°-84°: 2-cyanomethyl-5-methoxy-1-tetralone, m.p. 91°-94°.

reactant | 2-dimethylaminomethyl-6-methoxy-1-tetralone hydrochloride | 13.5 g | Cl.CN(C)CC1C(C2=CC=C(C=C2CC1)OC)=O
reactant | hydrochloric acid | 4 ml | Cl | ClH
reactant | potassium cyanide | 6.5 g | [C-]#N.[K+]
solvent | water | 200 ml | O | H2O
product | 2-cyanomethyl-6-methoxy-1-tetralone | C(#N)CC1C(C2=CC=C(C=C2CC1)OC)=O | C13H13NO2
